US06335445B1
21.2) N-[(4-aminophenyl)carbonylamino]-N′-[3,5-bis-(1,1-dimethylethyl)-4-hydroxyphenyl]-urea
In a 250 ml Parr flask, 0.72 g (1.68 mmoles) of N-[3,5-bis-(1,1-dimethylethyl)-4-hydroxyphenyl]-N′-[(4-nitrophenyl)carbonylamino]-urea is dissolved in 30 ml of absolute ethanol in the presence of 10% Pd/C. The mixture is agitated under 20 PSI of hydrogen, at 30° C., for two hours. After filtration on celite, the filtrate is concentrated under vacuum. The evaporation residue is suspended in diethyl ether (20 ml), agitated and filtered to produce a pale yellow powder with a yield of 75%. Melting point: 245-246° C.

reactant | N-[3,5-bis-(1,1-dimethylethyl)-4-hydroxyphenyl]-N′-[(4-nitrophenyl)carbonylamino]-urea | 1.68 mmoles, 0.72 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)NC(=O)NNC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C22H28N4O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | Pd/C | [Pd] | Pd
product | N-[(4-aminophenyl)carbonylamino]-N′-[3,5-bis-(1,1-dimethylethyl)-4-hydroxyphenyl]-urea | yield of 75% | NC1=CC=C(C=C1)C(=O)NNC(=O)NC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C22H30N4O3
